US06855722B2
e) 3-{5-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yloxy)-ethoxy]-indol-1-yl}-3-phenyl-propionic acid ethyl ester
3-[5-(2-hydroxy-ethoxy)-indol-1yl]-3-phenyl-propionic acid ethyl ester (0.77 g, 2.10 mmol), N-hydroxyphthalimide (0.40 g, 2.40 mmol) and triphenylphosphine (0.85 g, 3.24 mmol) were dissolved in tetrahydrofuran (5 mL). The mixture was placed under an argon atmosphere at 0° C. and stirred for 10 minutes. Diisopropylazodicarboxylate (0.65 g, 3.24 mmol) was added all at once. After stirring overnight (16 h), the solvent was removed under vacuum, and the crude mixture was purified via column chromatogpraphy to afford the title compound (96% yield). 1H NMR (CDCl3) δ 7.79 (m, 2H), 7.70 (m, 2H), 7.15-7.29 (m, 7H), 7.03 (d, 1H, J=2.3 Hz), 6.69 (dd, 1H, J=2.5, 9.0 Hz), 6.43 (d, 1H, J=3.7 Hz), 5.99 (t, 1H, J=7.7 Hz), 4.56 (m, 2H), 4.34 (m, 2H), 4.02 (c, 2H, J=7.2 Hz), 3.27 (m, 2H), 1.06 (t, 3H, J=7.2 Hz).

reactant | 3-[5-(2-hydroxy-ethoxy)-indol-1yl]-3-phenyl-propionic acid ethyl ester | 2.10 mmol, 0.77 g | C(C)OC(CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCCO)=O | C21H23NO4
reactant | N-hydroxyphthalimide | 2.40 mmol, 0.40 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 3.24 mmol, 0.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropylazodicarboxylate | 3.24 mmol, 0.65 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-{5-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-yloxy)-ethoxy]-indol-1-yl}-3-phenyl-propionic acid ethyl ester | 96% yield | C(C)OC(CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCCON1C(C2=CC=CC=C2C1=O)=O)=O | C29H26N2O6
